US07598286B2
Step A: [1-cyclopentyl-7-(trifluoromethyl)-1H-indazol-3-yl](3-methoxyphenyl)methanone
To a solution of [3-(methoxy)phenyl](7-trifluoromethyl-1H-indazol-3-yl)methanone (0.27 g, 0.85 mmol) in 5 mL DMF was added in one portion sodium hydride (0.034 g, 0.85 mmol, 60% in oil). After the gas evolution ceased, cyclopentyl bromide (0.107 mL, 1.0 mmol) was added and the reaction was stirred at ambient to 50° C. for 24 hours. The cool reaction mixture was partitioned with EtOAc and 1 N HCl. The organic phase was washed with brine and dried (Na2SO4). Removal of the solvent in vacuo afforded the crude product which was purified by flash chromatography (silica gel, hexane/EtOAC, 9:1) to give the title compound (0.250 g) as an oil.

reactant | [3-(methoxy)phenyl](7-trifluoromethyl-1H-indazol-3-yl)methanone | 0.85 mmol, 0.27 g | COC=1C=C(C=CC1)C(=O)C1=NNC2=C(C=CC=C12)C(F)(F)F | C16H11F3N2O2
reactant | sodium hydride | 0.85 mmol, 0.034 g | [H-].[Na+]
reactant | cyclopentyl bromide | 1.0 mmol, 0.107 mL | C1(CCCC1)Br | C5H9Br
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | [1-cyclopentyl-7-(trifluoromethyl)-1H-indazol-3-yl](3-methoxyphenyl)methanone | 0.250 g | C1(CCCC1)N1N=C(C2=CC=CC(=C12)C(F)(F)F)C(=O)C1=CC(=CC=C1)OC | C21H19F3N2O2
